US06022822
(6) Synthesis of tricyclohexyl [o-(1-aminoethyl)phenyl]tin
To the mixture of 486 mg of lithium aluminum hydride (12.3 mmol) and 20 ml of diethylether in a 100 ml two-neck flask, 20 ml of a diethylether solution containing 643 mg of tricyclohexyl[o-(1-azidoethyl)phenyl]tin (1.25 mmol) was added dropwise, followed by a heat-refluxing for 11.5 hours. Upon completion of the reaction, the organic layer was separated using 10 ml of water. After the ether layer was washed with 30 ml of a saturated brine and dried over sodium sulfate, the solvent was removed under reduced pressure to yield a crude product. The resultant crude product was purified by column chromatography on silica gel (for which, 25 g of silica gel, and hexane as a development solvent were employed) to yield 467 mg of the final product (yield=76.5%).

reactant | lithium aluminum hydride | 12.3 mmol, 486 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tricyclohexyl[o-(1-azidoethyl)phenyl]tin | 1.25 mmol, 643 mg | C1(CCCCC1)[Sn](C1=C(C=CC=C1)C(C)N=[N+]=[N-])(C1CCCCC1)C1CCCCC1
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
product | tricyclohexyl [o-(1-aminoethyl)phenyl]tin | 467 mg, yield=76.5% | C1(CCCCC1)[Sn](C1=C(C=CC=C1)C(C)N)(C1CCCCC1)C1CCCCC1 | InChI=1S/C8H10N.3C6H11.Sn/c1-7(9)8-5-3-2-4-6-8;3*1-2-4-6-5-3-1;/h2-5,7H,9H2,1H3;3*1H,2-6H2;
